Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was tricked into coming here"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with history of HIV on treatment who was 
sent to the ED by his PCP for safety evaluation after he 
endorsed depressed mood and thoughts of suicide. Patient reports 
that his mood has been worsening over the past ___ months, and 
he has been experiencing both significant anxiety and 
depression. He states that he has been separated from his wife 
from the past year, but that over the past several weeks "I've 
been thinking about it more and worrying about it more." He says 
that he has been drinking >10 drinks of whiskey each night for 
the past 8 weeks in order to quell his anxiety and help him fall 
asleep. Prior to this, he occasionally drank. He reports that he 
threw away all of the alcohol from his house prior to presenting 
to his PCP ___. 
.
Patient reports sleeping ___ hours each night. He reports that 
three weeks ago, he had a thought of overdosing on "alcohol and 
a bottle of pills" with intent to "fall asleep and not wake up". 
His only prescribed medication is Genovya and he denies having 
any other medications in his house. He states that this thoughts 
was transient and has not recurred since that time. He has been 
having thoughts of "falling asleep forever", but denies thoughts 
of wanting to die and denies suicidal ideation. He has been able 
to eat/cook/clean and perform his other IADLs. He works in a 
___ and has been able to go to work regularly and fulfill 
his responsibilities, however he has not been at work in the 
past day due to his worsening mood. He has missed his HIV 
medication for the past two days, but otherwise endorses regular 
adherence. 
.
He states that he decided to present to his PCP today to seek 
"help from a professional" for his mental health and for his 
alcohol use. He has family in the ___ area, but states that 
he does not talk to them about his medical problems or his 
mental health. He was considering opening up to a friend about 
his issues today, but opted to see his PCP and seek help from a 
therapist instead. Patient denies feelings of hopelessness and 
states that he would like to find mental health treatment and to 
stop drinking."
.
In the ED, patient was calm and cooperative. He was started on 
___ but didn't score over his ED stay.
.
For the admission interview, patient was seen with an in person 
___ interpreter; the interview was limited in time by 
interpreter's availability.  Patient started by saying that he 
was very frustrated about being tricked into being involuntarily 
hospitalized on a psychiatric unit. He says he told his PCP 
about his depression and SI because he was looking to get 
outpatient psychological help. He says his SI was a month ago, 
passive and fleeting, and that he told his PCP about it to be 
completely forthcoming. He says he was asked by his PCP if he 
wanted to get help at ___, and he said yes assuming it would 
be inpatient, and now he's getting hospitalized involuntary, 
even though it is not at all something he expected.
.
Patient pointed out that he earns his money weekly and that 
being hospitalized and not working will affect his livelihood. 
Patient also says that he has an intake appointment at ___ 
___ at 2 pm next ___. 
.
REVIEW OF SYSTEMS:
Psychiatric: as per HPI
General: denies fatigue, fever, chills, night sweats, headache, 
focal numbness, focal weakness, changes in vision, changes in 
hearing, cough, SOB, CP, palpitations, abdominal pain, nausea, 
vomiting, diarrhea, constipation, dysuria, increased urinary 
frequency, rash, joint pain, muscle pain.
. 
On admission to unit, pt reported onset of suicidal ideation ~3 
weeks ago with a plan of overdosing on "pills" and alcohol with 
the intent of falling asleep and not waking up. Patient 
qualified that he has not had intrusive or recurrent suicidal 
thoughts since three weeks ago. However, does report recurrent 
thoughts/desires to "fall asleep forever," but denied 
thought/urges to hasten his own death. Confirms that he has been 
able to maintain his IADLs, and he has been able to go to work 
except for day prior to appointment with PCP.
.
Patient voiced his appreciation for his deteriorating mood, 
which prompted him to make an appointment with his PCP to 
discuss ___ referral to behavioral health providers. Of note, 
patient does have family in the area, but he does not feel 
comfortable disclosing his emotions/troubles to them. 
.
Regarding admission to inpatient unit, patient expressed his 
frustration and concern that he is missing work. Added that he 
has an appointment at ___ for ___, and 
would like to discuss possible medication options with providers 
there. Patient provided name of friend ___ ___ who  
team could contact for collateral; of note, patient has not told 
family about his HIV status and does not want to tell them about 
his medical/emotional difficulties. 
.
 
Past Medical History:
Past psychiatric history absent for previous diagnoses, 
inpatient admissions, or suicide attempts. No history of 
self-injurious behaviors. No history of outpatient treatment or 
medication trials. No access to weapons or firearms.
.
PAST MEDICAL HISTORY:
PCP: Dr. ___ at ___.
- HIV on HAART

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- a cousin died by suicide;
- patient denies knowing of other family members with 
psychiatric histories
 
Physical Exam:
EXAM:
General: 
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
- Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
- Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
- Extremities: Warm and well-perfused.  No edema of the limbs.
- Skin: No rashes or lesions noted.
.
Neurological:
- Cranial Nerves:
--- I: Olfaction not tested.
--- II: PERRL 3 to 2mm bilaterally.
--- III, IV, VI: EOMI without nystagmus
--- V: Facial sensation intact to light touch in all
distributions
--- VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
--- VIII: Hearing intact to finger rub bilaterally
--- IX, X: Palate elevates symmetrically
--- XI: ___ strength in trapezii and SCM bilaterally
--- XII: Tongue protrudes in midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor. Strength ___ throughout.
- Sensory: No deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: Normal on finger to nose test, no intention
tremor noted
- Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Romberg absent.
.
Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: MOYb with 0 errors
- Orientation: Oriented to person, time, place, situation
- Memory: ___ registration, ___ recall after 5 ___
grossly intact
- Fund of knowledge: aware of the Super Bowl game last ___
- Language: Native ___ speaker, does not speak ___,
unable to assess patient's language fluency
.
Mental Status:
- Appearance: tall thin man appearing his stated age, with
closely cropped hair, wearing a hospital gown, fair grooming and
hygiene
- Behavior: Sitting in his chair, appropriate eye contact, no
psychomotor agitation or retardation
- Attitude: Cooperative but somewhat cagey, guarded
- Mood: "not good"
- Affect: Mood-congruent, somewhat dysphoric, mildly irritable
- Speech: Normal rate, volume, and tone, no dysarthria
- Thought process: Linear, coherent, goal-oriented, no evidence
of thought disorder
- Thought Content:
--- Safety: Denies any current SI/HI
--- Delusions: No evidence of paranoia, no other delusions
elicited 
--- Obsessions/Compulsions: No evidence based on current
encounter
--- Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
- Insight: Limited
- Judgment: Limited

 
Pertinent Results:
CBC
___ 05:30PM BLOOD WBC-4.9 RBC-3.68* Hgb-12.2* Hct-40.7 
MCV-111* MCH-33.2* MCHC-30.0* RDW-12.6 RDWSD-51.5* Plt ___
___ 05:30PM BLOOD Neuts-65.8 ___ Monos-6.1 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-3.25 AbsLymp-1.28 AbsMono-0.30 
AbsEos-0.05 AbsBaso-0.02

Metabolic
___ 05:30PM BLOOD Glucose-92 UreaN-14 Creat-1.0 Na-142 
K-4.9 Cl-106 HCO3-22 AnGap-14
___ 09:50PM BLOOD ALT-10 AST-14 AlkPhos-82 TotBili-0.4
___ 09:50PM BLOOD Cholest-219*
___ 09:50PM BLOOD VitB12-373 Folate-7
___ 09:50PM BLOOD %HbA1c-3.8* eAG-62*
___ 09:50PM BLOOD Triglyc-191* HDL-56 CHOL/HD-3.9 
LDLcalc-125
___ 09:50PM BLOOD TSH-2.6

Toxicology
___ 05:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:51PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 06:06PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

Infectious disease
   RAPID PLASMA REAGIN TEST (Final ___: 
      REACTIVE. 
      Reference Range: Non-Reactive. 

   QUANTITATIVE RPR (Final ___: 
      REACTIVE AT A TITER OF 1:2. 
      Reference Range: Non-Reactive. 

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  He was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
2. PSYCHIATRIC:
#)  Depression, alcohol abuse
___ year old man with no formal psychiatric history and no prior 
inpatient admissions, medical history notable for HIV on HAART 
who was sent to the ED on ___ by his PCP for safety 
evaluation after he endorsed depressed mood and thoughts of 
suicide. On initial and subsequent interviews, patient 
acknowledges prior suicidal ideation, but notably minimizing 
severity of symptoms (attributing recent low mood to 
difficulties with a staff member at work; also stating that 
he'll easily give up drinking through "strong will"). Patient's 
presentation is consistent with a depressive episode, unclear 
whether primary mood disorder or substance-induced, given 
patient's inconsistent reporting of his alcohol drinking 
history. There is no evidence of psychosis or (hypo)manic/mixed 
symptoms.
.
The patient was queried about interest in antidepressant 
medications for depression, but was not interested at this time. 
 He expressed a plan to engage in talk therapy at a community 
agency, with which he had already began establishing care.  He 
persistently denied SI and was future-oriented, eager to be 
discharged to return to work and appeared concerned about taking 
precautions to care for both his physical and mental health.  He 
provided the treatment team with a friend, who also serves as a 
case ___ for him, who was contacted and provided reassuring 
collateral- no known SI, substance use not thought to be 
problematic. 
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder
- Pt was briefly counseled about adverse effects of alcohol on 
mental health.
- He was initially maintained on CIWA precautions, but no 
evidence of withdrawal, scoring only ___. 
- Pt was encouraged to follow-up with PCP for further management 
of alcohol use.
.
4. MEDICAL
# HIV:
- patient takes Gemboya at home but the inpatient pharmacy 
doesn't carry it, so after a discussion with pharmacy patient 
was provided with Stribild, which is a combination of the same 
medications as ___ with only difference being tenofovir 
formulations (per pharmacy, the two tenofovir formulations are 
equivalent).
.
# Reactive RPR
- Patient was screened for syphilis with RPR at time of 
admission.  It was reactive in a 1:2 titer.  Pt was notified of 
this result and reported having been treated for syphilis 
sometime last year, but those records were not available prior 
to discharge.  He denied any recent symptoms of chancre or rash. 
 Our records showed prior positive RPR in ___ with no 
confirmatory Treponemal testing.  An FTA-ABS was drawn prior to 
discharge.  The reactive RPR at a low titer appeared consistent 
with his report of previously treated syphilis, but his PCP was 
notified of the result for future follow-up.  
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. 
Unfortunately, these groups are not currently structured to 
accommodate ___ speakers, so he was unable to 
participate. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
With pt's permission spoke to his friend, ___ on ___ 
office: ___, cell ___
.
He has known the pt as a friend for approximately ___ years. Of 
note, Mr. ___ is also the pt's CM at ___. He 
reports the pt has been experiencing depressive symptoms over 
the past few weeks. Primary stressor is his relationship with 
his wife with whom he is separated. He and his wife separated 
last year. Mr. ___ has not seen the pt recently. He is not 
aware of problematic alcohol use, however, notes that pt talks 
about seeing friends and drinking alcohol on the weekend. 
Relationship with family is "not really good" as they do not 
accept his sexual orientation. They are unaware of his HIV 
status. Pt has never expressed SI to Mr. ___. Mr. ___ does 
not have any acute safety concerns and is aware that the pt is 
discharging today. 
.
Mr. ___ assisted pt with scheduling the following intake 
appointment for behavioral health treatment at ___. 
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
worsening depression and prior expressions of SI.  His static 
factors noted at that time included history of substance abuse,  
male gender, recent separation from partner, ___ identity, and 
chronic medical illness (HIV).   The modifiable risk factors, 
including limited social supports, no established outpatient 
treatment, substance abuse/intoxication were also addressed at 
that time.  Pt repeatedly denied suicidal intent, described how 
external stressors had recently started to be resolved (e.g., a 
stressful coworker was fired), and outpatient follow-up that the 
patient had previously worked to arrange was confirmed.  
Finally, the patient is being discharged with many protective 
risk factors, including help-seeking nature, future-oriented 
viewpoint, positive therapeutic relationship with outpatient 
providers (case manager, PCP), lack of suicidal ideation.  
Furthermore, the patient repeatedly expressed urgency to return 
to work, such that further prolonging the hospitalization 
appeared likely to have negative impact on social stability and 
mental wellbeing. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Stribild 1 TAB PO QHS 

 
Discharge Medications:
1.  Stribild 1 TAB PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder, single episode, 
substance-induced vs. primary  
Alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for depression and alcohol use 
disorder.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___